US07576094B2
6-Hydroxy-5,7,8-trimethyl-2,3-dihydro-4H-thiochromen-4-one (2.24 g) was dissolved in anhydrous THF (100 mL) and treated with chloromethyl methyl ether (0.918 mL) and NaH (60% in mineral oil, 483 mg). The resulting reaction mixture was stirred for 2 h turning bright yellow as NaH was added and then gradually becoming pale yellow. The reaction mixture was quenched with a small amount of H2O followed by solvent evaporation and preloading the residue onto SiO2. Column chromatography (SiO2: hexane:EtOAc, 95:5 v/v) yielded 6-methoxymethoxy-5,7,8-trimethyl-2,3-dihydro-4H-thiochromen4-one as a white solid (2.37 g).

reactant | 6-Hydroxy-5,7,8-trimethyl-2,3-dihydro-4H-thiochromen-4-one | 2.24 g | OC=1C(=C2C(CCSC2=C(C1C)C)=O)C | C12H14O2S
reactant | chloromethyl methyl ether | 0.918 mL | COCCl | C2H5ClO
reactant | NaH | 483 mg | [H-].[Na+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 6-methoxymethoxy-5,7,8-trimethyl-2,3-dihydro-4H-thiochromen4-one | 2.37 g | COCOC=1C(=C2C(CCSC2=C(C1C)C)=O)C | C14H18O3S
